### PR TITLE
[Merged by Bors] - feat: Convex functions are continuous

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove that convex functions from an open set in a finite dimensional real normed space are locally Lipschitz on that set.

---

- [x] depends on: #14660
- [x] depends on: #16111
- [x] depends on: #16115
- [x] depends on: #16117
- [x] depends on: #16118

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -892,8 +878,90 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
     uniformCauchySeqOn_iff_uniformCauchySeqOnFilter,
     SeminormedGroup.uniformCauchySeqOnFilter_iff_tendstoUniformlyOnFilter_one]
 
+variable [T0Space E]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Basic.lean:881]: What's the motivation for swapping this for `NormedGroup`? The two spellings are equivalent, right?

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/Basic.lean:881]: (phrased another way: this refactor looks out of scope for this PR, and if you're serious about wanting to avoid NormedGroup entirely in favor of the less-bundled working, probably deserves a Zulip thread)

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Group/Basic.lean:881]: Yes, true. They are equivalent. Why do we even have lemmas stated with `SeminormedGroup` + `T0Space`?

File: docs/undergrad.yaml [hunk 2]
```diff
@@ -356,7 +356,8 @@ Single Variable Real Analysis:
     Weierstrass trigonometric approximation theorem: 'span_fourier_closure_eq_top'
   Convexity:
     convex functions of a real variable: 'ConvexOn'
-    continuity and differentiability of convex functions: 'https://en.wikipedia.org/wiki/Convex_function#Functions_of_one_variable'
+    continuity of convex functions: 'ConvexOn.continuousOn'
+    differentiability of convex functions: 'https://en.wikipedia.org/wiki/Convex_function#Functions_of_one_variable'
```
Comment (YaelDillies) [inline docs/undergrad.yaml:360]: @PatrickMassot, just checking: Is it fine if I split this item in two?

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 3]
```diff
@@ -0,0 +1,208 @@
...
+--     ContinuousOn f (intrinsicInterior ℝ C)
+
+-- proof_wanted ConcaveOn.locallyLipschitzOn_intrinsicInterior (hf : ConcaveOn ℝ C f) :
+--     ContinuousOn f (intrinsicInterior ℝ C)
+
+-- proof_wanted ConvexOn.continuousOn_intrinsicInterior (hf : ConvexOn ℝ C f) :
+--     ContinuousOn f (intrinsicInterior ℝ C)
+
+-- proof_wanted ConcaveOn.continuousOn_intrinsicInterior (hf : ConcaveOn ℝ C f) :
+--     ContinuousOn f (intrinsicInterior ℝ C)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Continuous.lean:208]: Just noting that those `proof_wanted` are linted against by a combination of the unused arguments linter and the new variable inclusion mechanism linter!

cc @Kha

File: docs/undergrad.yaml (hunk 2 above)
Comment (jcommelin) [reply docs/undergrad.yaml:360]: my impression is that we really want a bijection between undergrad.yaml and the entries in the corresponding PDF sanctioned by the French government (or whatever).

So it would be find to include this in one of the other yaml's, but it will have to wait a bit before this one can be ticked off.

@PatrickMassot feel free to correct me if I'm wrong.

File: Mathlib/Analysis/Convex/Continuous.lean (hunk 3 above)
Comment (Kha) [reply Mathlib/Analysis/Convex/Continuous.lean:210]: That command should probably just disable those linters locally

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Continuous.lean:210]: Opened https://github.com/leanprover-community/batteries/issues/938

File: docs/undergrad.yaml (hunk 2 above)
Comment (eric-wieser) [reply docs/undergrad.yaml:360]: We've performened splits in the past - see "power series expansion of elementary functions" below, which gained sub-items.

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 4]
```diff
@@ -0,0 +1,213 @@
...
+    have hwyz : δ • w + (1 - δ) • y = z := by simp [w, hδ₀.ne', sub_smul]
+    have hw : dist w x₀ < ε := by
+      simpa [w, ← hx₀', dist_smul₀, abs_of_nonneg, hδ₀.le, inv_mul_lt_iff', hδ₀]
+    calc
+      f z ≤ max (f w) (f y) :=
+        hf.le_max_of_mem_segment (hr hw).2 hy ⟨_, _, hδ₀.le, sub_nonneg.2 hδ₁.le, by simp, hwyz⟩
+      _ ≤ max r (f y) := by gcongr; exact (hr hw).1
+  tfae_have 5 → 6
+  · rintro h x₀ hx₀
+    obtain ⟨r, hr⟩ := h hx₀
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Continuous.lean:113]: I think this might make a good auxiliary lemma, after you've matched the quantifiers on this line?

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 5]
```diff
@@ -0,0 +1,210 @@
...
+  simp_rw [dist_eq_norm_sub, Real.norm_eq_abs, abs_sub_le_iff]
+  exact ⟨oneside hx hy, norm_sub_rev x _ ▸ oneside hy hx⟩
+
+lemma ConcaveOn.exists_lipschitzOnWith_of_isBounded (hf : ConcaveOn ℝ (ball x₀ r) f) (hε : 0 < ε)
+    (hf' : IsBounded (f '' ball x₀ r)) : ∃ K, LipschitzOnWith K f (ball x₀ (r - ε)) := by
+  replace hf' : IsBounded ((-f) '' ball x₀ r) := by convert hf'.neg; ext; simp [neg_eq_iff_eq_neg]
+  simpa using hf.neg.exists_lipschitzOnWith_of_isBounded hε hf'
+
+lemma ConvexOn.continuousOn_tfae (hC : IsOpen C) (hC' : C.Nonempty) (hf : ConvexOn ℝ C f) :
+    TFAE [LocallyLipschitzOn C f, ContinuousOn f C, ∃ x₀ ∈ C, ContinuousAt f x₀,
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Analysis/Convex/Continuous.lean]: Make sure to do the same for ConcaveOn!

File: docs/undergrad.yaml (hunk 2 above)
Comment (YaelDillies) [reply docs/undergrad.yaml]: I have done so

File: Mathlib/Analysis/Convex/Continuous.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Continuous.lean]: Whoops, did so, but not so well

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 6]
```diff
@@ -0,0 +1,220 @@
...
+-/
+
+open FiniteDimensional Metric Set List Bornology
+open scoped Topology
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
+  {C : Set E} {f : E → ℝ} {x₀ : E} {ε r : ℝ}
+
+lemma ConvexOn.exists_lipschitzOnWith_of_isBounded (hf : ConvexOn ℝ (ball x₀ r) f) (hε : 0 < ε)
+    (hf' : IsBounded (f '' ball x₀ r)) : ∃ K, LipschitzOnWith K f (ball x₀ (r - ε)) := by
```
Comment (ocfnash) [inline Mathlib/Analysis/Convex/Continuous.lean:22]: How about:
```suggestion
lemma ConvexOn.exists_lipschitzOnWith_of_isBounded (hf : ConvexOn ℝ (ball x₀ r) f)
    (hf' : IsBounded (f '' ball x₀ r)) {r' : ℝ} (h : r' < r) :
    ∃ K, LipschitzOnWith K f (ball x₀ r') := by
```

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 7]
```diff
@@ -0,0 +1,220 @@
...
+        rw [sub_eq_add_neg (f _), two_mul]
+        gcongr
+        · exact (le_abs_self _).trans <| (hM _ hz).le
+        · exact (neg_le_abs _).trans <| (hM _ hx').le
+  refine ⟨K.toNNReal, .of_dist_le' fun x hx y hy ↦ ?_⟩
+  simp_rw [dist_eq_norm_sub, Real.norm_eq_abs, abs_sub_le_iff]
+  exact ⟨oneside hx hy, norm_sub_rev x _ ▸ oneside hy hx⟩
+
+lemma ConcaveOn.exists_lipschitzOnWith_of_isBounded (hf : ConcaveOn ℝ (ball x₀ r) f) (hε : 0 < ε)
+    (hf' : IsBounded (f '' ball x₀ r)) : ∃ K, LipschitzOnWith K f (ball x₀ (r - ε)) := by
```
Comment (ocfnash) [inline Mathlib/Analysis/Convex/Continuous.lean:69]: As above, I think preferable to use `r' < r` rather than `r - ε`.

File: Mathlib/Analysis/Convex/Continuous.lean [hunk 8]
```diff
@@ -0,0 +1,220 @@
...
+  replace hf' : IsBounded ((-f) '' ball x₀ r) := by convert hf'.neg; ext; simp [neg_eq_iff_eq_neg]
+  simpa using hf.neg.exists_lipschitzOnWith_of_isBounded hε hf'
+
+lemma ConvexOn.isBoundedUnder_abs (hf : ConvexOn ℝ C f) {x₀ : E} (hC : C ∈ 𝓝 x₀) :
```
Comment (ocfnash) [inline Mathlib/Analysis/Convex/Continuous.lean:73]: Just a remark that this lemma seems to make a case for a `ConvexAt` predicate.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Convex/Continuous.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Continuous.lean:73]: I tend to agree 😁 but I have no other use case in mind for now

File: Mathlib/Analysis/Convex/Continuous.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Continuous.lean:22]: I am not convinced. As you see in the calculations, `ε` is the important quantity, and one could write a version of the lemma giving the Lipschitz constant in terms of the bound and `ε`.

**Comment by YaelDillies** [comment]
bors merge
